US04927938
3.4 g (20 mmol) of 2-hydroxy-3-chloro-5-acetylpyridine are stirred with 3.7 g (24 mmol) of phosphorus oxychloride and 2.4 g (20 mmol) of N,N-dimethylaniline in 75 ml of chlorobenzene at 100° C. for 1.5 hours. The mixture is stirred into 200 ml of ice-water and extracted with ethyl acetate. Drying and evaporation gives 3.6 g (95%) of 2,3-dichloro-5-acetylpyridine, melting point: 80° C.

reactant | 2-hydroxy-3-chloro-5-acetylpyridine | 20 mmol, 3.4 g | OC1=NC=C(C=C1Cl)C(C)=O | C7H6ClNO2
reactant | phosphorus oxychloride | 24 mmol, 3.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 20 mmol, 2.4 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | chlorobenzene | 75 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2,3-dichloro-5-acetylpyridine | 3.6 g, 95% | ClC1=NC=C(C=C1Cl)C(C)=O | C7H5Cl2NO
